US05929067
5-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-6-(1H-indol-3-yl)-hexanoic acid N-(2-chloro-4-methyl-phenyl)-amide
160 mg (0.268 mmol) of 5-[N-(3,5-bistrifluoromethyl-benzoyl)-N-methyl-amino]-6-(1H-indol-3-yl)-hexanoic acid are dissolved in 10 ml of methylene chloride, and then 222 ml (1.34 mmol) of triethylamine, 48 ml (0.382 mmol) of 2-chloro-4-methyl-aniline and 271 ml of 50% propylphosphonic acid anhydride solution in ethyl acetate are added. The reaction mixture is stirred at room temperature for 20 hours, then washed twice with aqueous potassium carbonate solution. The aqueous phase is extracted twice with methylene chloride, and the organic phases are combined, dried over magnesium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with ethyl acetate/petroleum ether (first 1:2, then 3:1). The title compound is obtained in the form of white crystals. MS (EI): 352, 241, 222, 213, 130. TLC: ethyl acetate, Rf =0.59.

reactant | 5-[N-(3,5-bistrifluoromethyl-benzoyl)-N-methyl-amino]-6-(1H-indol-3-yl)-hexanoic acid | 0.268 mmol, 160 mg | FC(C=1C=C(C(=O)N(C)C(CCCC(=O)O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C24H22F6N2O3
reactant | triethylamine | 1.34 mmol, 222 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-4-methyl-aniline | 0.382 mmol, 48 ml | ClC1=C(N)C=CC(=C1)C | C7H8ClN
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-6-(1H-indol-3-yl)-hexanoic acid N-(2-chloro-4-methyl-phenyl)-amide | ClC1=C(C=CC(=C1)C)NC(CCCC(CC1=CNC2=CC=CC=C12)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C31H28ClF6N3O2
